US06214533B1
Aqueous solution of sodium hydroxide 8.8 g (0.22 mol) in water of 15 ml was added drop by drop to mixture of 2-mercapto furan 20.0 g (0.20 mol), chloroacetic acid 27.0 g (0.22 mol) and ethanol 300 ml with stirring at room temperature. After 20 minutes of stirring it was heated to 50° C., and further aqueous solution of sodium hydroxide 8.8 g (0.22 mol) in 15 ml of water was added slowly drop by drop. After stirring for 3 hours at 50° C., it was cooled to room temperature, and water was added till reaction liquid became uniform. Hydrochloric acid was added for neutralization. Prepared crystal was collected by filtration and 23.5 g (0.148 mol) of 2-carboxymethylthiofuran was obtained by recrystallization in methanol. Synthesis of yield 74%.

reactant | sodium hydroxide | 0.22 mol, 8.8 g | [OH-].[Na+]
reactant | 2-mercapto furan | 0.20 mol, 20.0 g | SC=1OC=CC1 | C4H4OS
reactant | chloroacetic acid | 0.22 mol, 27.0 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 0.22 mol, 8.8 g | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-carboxymethylthiofuran | 0.148 mol, 23.5 g, yield 74% | C(=O)(O)CC=1SC=CC1 | C6H6O2S
